US06251904B1
4-Nitro-3-n-propyl-1H-pyrazole-5-carboxylic Acid
Fuming sulphuric acid (17.8 ml) was added dropwise to stirred, ice-cooled fuming nitric acid (16.0 ml), the resulting solution heated to 50° C., then 3-n-propyl-1H-pyrazole-5-carboxylic acid (Chem. Pharm. Bull., 1984, 32, 1568; 16.4 g, 0.106 mol) added portionwise over 30 minutes whilst maintaining the reaction temperature below 60° C. The resulting solution was heated for 18 hours at 60° C., allowed to cool, then poured onto ice. The white precipitate was collected, washed with water and dried by suction to yield the title compound (15.4 g), m.p. 170-172° C. Found: C, 42.35; H, 4.56; N, 21.07. C7H9N3O4 requires C, 42.21; H, 4.55; N, 21.10%. δ (DMSOd6): 0.90 (3H,t), 1.64 (2H,m), 2.83 (2H,m), 14.00 (1H,s).

reactant | sulphuric acid | 17.8 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 16.0 ml | [N+](=O)(O)[O-] | HNO3
reactant | 3-n-propyl-1H-pyrazole-5-carboxylic acid | 0.106 mol, 16.4 g | C(CC)C1=NNC(=C1)C(=O)O | C7H10N2O2
product | 4-Nitro-3-n-propyl-1H-pyrazole-5-carboxylic Acid | 15.4 g | [N+](=O)([O-])C=1C(=NNC1C(=O)O)CCC | C7H9N3O4
